US20010011090A1
A mixture of tert-butyl 5-(1-methyl-3-trifluoromethyl-1H-pyrazol-5-yl)thiophene-2-carbamate, trifluoroacetic acid and dichloromethane was stirred at room temperature for 2 days and then subjected to purification and salt formation in the usual way to give 5-(5-amino-2-thienyl)-1-methyl-3-trifluoromethyl-1H-pyrazole hydrochloride as light yellow powder crystals.

reactant | tert-butyl 5-(1-methyl-3-trifluoromethyl-1H-pyrazol-5-yl)thiophene-2-carbamate | CN1N=C(C=C1C1=CC=C(S1)NC(=O)OC(C)(C)C)C(F)(F)F | C14H16F3N3O2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | ClCCl | CH2Cl2
product | 5-(5-amino-2-thienyl)-1-methyl-3-trifluoromethyl-1H-pyrazole hydrochloride | Cl.NC1=CC=C(S1)C1=CC(=NN1C)C(F)(F)F | InChI=1S/C9H8F3N3S.ClH/c1-15-5(6-2-3-8(13)16-6)4-7(14-15)9(10,11)12;/h2-4H,13H2,1H3;1H
